US05284842
a) Methyl 3-hydroxy-3-methylaminomethylpiperidine-1-carboxylate
9.3 g (54.3 mmol) of methyl 5-aza-1-oxaspiro[2,5]octane-5-carboxylate are added dropwise to 50 ml of methylamine solution (25% in water) and the mixture is stirred overnight at room temperature. It is then concentrated and the residue is distilled.

reactant | methyl 5-aza-1-oxaspiro[2,5]octane-5-carboxylate | 54.3 mmol, 9.3 g | O1CC12CN(CCC2)C(=O)OC | C8H13NO3
reactant | methylamine | 50 ml | CN | CH5N
product | Methyl 3-hydroxy-3-methylaminomethylpiperidine-1-carboxylate | OC1(CN(CCC1)C(=O)OC)CNC | C9H18N2O3
